US09108966B2
Lawesson's reagent (0.68 g, 1.68 mol) was added to a solution of tert-butyl 2-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazinyl)-2-oxoethylcarbamate (0.50 g, 1.12 mmol) in THF (30 mL). The reaction mixture was heated at 70° C. for 0.5 h. The solution was cooled down to rt and saturated NaHCO3 was added. The organic layer was separated and the aqueous layer was exacted with EtOAc (2×). The combined organic layer was dried over Na2SO4, and concentrated. The crude sample was dissolved in THF (100 mL), and Hg(OAc)2 (1.68 g) was added. The mixture was stirred at rt overnight, filtered and concentrated. The residue was dissolved in EtOAc (100 mL), stirred for 30 min, filtered and concentrated. The crude material was purified by silica gel column chromatography (20% to 50% EtOAc/petroleum ether) to give tert-butyl ((5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)methyl)carbamate (230 mg, 45%) as a white solid. ESI-MS (EI+, m/z): 446.2 [M+H]+.

reactant | Lawesson's reagent | 1.68 mol, 0.68 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | tert-butyl 2-(2-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diaza-bicyclo[3.2.1]octane-2-carbonyl)hydrazinyl)-2-oxoethylcarbamate | 1.12 mmol, 0.50 g | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NNC(CNC(OC(C)(C)C)=O)=O | C21H29N5O6
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl ((5-((2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]octan-2-yl)-1,3,4-thiadiazol-2-yl)methyl)carbamate | 230 mg, 45% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NN=C(S2)CNC(OC(C)(C)C)=O | C21H27N5O4S
